US07812022B2
Step C: 2,5-Difluoro-N-[3-(3-{2-[(2-methyl-1,2,3,4-tetrahydro-7-isoquinolinyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide
To a solution of N-{4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-2-methyl-1,2,3,4-tetrahydro-7-isoquinolinamine (96 mg, 0.21 mmol) and TEA (45 μL, 0.32 mmol) in DCM (2 mL) was added 2,5-difluorobenzoyl chloride (28 μL, 0.23 mmol). After 16 h at rt, the reaction mixture was adsorbed onto silica and purified by column chromatography to generate the title compound in 51% yield (63 mg, 0.11 mmol). 1H NMR (400 MHz, d6-DMSO) δ 10.65 (s, 1H), 9.44 (s, 1H), 8.87 (d, J=6.9 Hz, 1H), 8.47 (d, J=9.3 Hz, 1H), 8.26 (d, J=5.7 Hz, 1H), 8.05 (s, 1H), 7.86 (d, J=8.4 Hz, 1H), 7.34-7.55 (m, 8H), 7.13 (t, J=6.9 Hz, 1H), 6.99 (d, J=8.4 Hz, 1H), 6.51 (d, J=5.3 Hz, 1H), 3.41 (s, 2H), 2.76 (t, J=5.7 Hz, 2H), 2.58-2.60 (m, 2H), 2.33 (s, 3H). HRMS=588.23178 (calculated for C34H27F2N7O=587.6313).

reactant | N-{4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-2-methyl-1,2,3,4-tetrahydro-7-isoquinolinamine | 0.21 mmol, 96 mg | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC=C2CCN(CC2=C1)C | C27H25N7
reactant | 2,5-difluorobenzoyl chloride | 0.23 mmol, 28 μL | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Difluoro-N-[3-(3-{2-[(2-methyl-1,2,3,4-tetrahydro-7-isoquinolinyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide | 51% yield | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC=C3CCN(CC3=C2)C)C=C(C=C1)F | C34H27F2N7O
